US07247645B2
1) Synthesis of 3,3-diphenylpropyl 4-(3-hydroxypropoxy)-3-oxobutanoate:
4.33 g (9.41 mmol) of 3,3-diphenylpropyl 4-(3-benzyloxypropoxy)-3-oxobutanoate was hydrogenated in the presence of a catalytic amount of 5% palladium/carbon in 50 ml of ethanol under 5 atm. for 14 days. After an ordinary after treatment followed by the purification by the silica gel chromatography (hexane/ethyl acetate=1/1), the title compound was obtained.

reactant | 3,3-diphenylpropyl 4-(3-benzyloxypropoxy)-3-oxobutanoate | 9.41 mmol, 4.33 g | C(C1=CC=CC=C1)OCCCOCC(CC(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H32O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | 3,3-diphenylpropyl 4-(3-hydroxypropoxy)-3-oxobutanoate | OCCCOCC(CC(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H26O5
